US08110571B2
To a solution of 250 mg of 1-(5-hydroxy-1H-benzimidazol-2-yl)-3-(2-morpholin-4-ylethyl)urea in 16.4 cm3 of aqueous 0.1N sodium hydroxide solution are added 191 mg of 2,6-difluorobenzenesulfonyl chloride. The solution is stirred for 24 hours at a temperature in the region of 20° C. After addition of 40 mg of 2,6-difluorobenzenesulfonyl chloride, the mixture is stirred for 5 hours at a temperature in the region of 20° C. The reaction medium is placed in an ice bath and the precipitate is then filtered off by suction, washed with three times 5 cm3 of ice-cold water and dried under reduced pressure over phosphorus pentoxide. After flash chromatography on a column of silica [eluent: dichloromethane/methanol (93/7 by volume)], 167 mg of 2-{[(2-morpholin-4-ylethyl)carbamoyl]amino}-1H-benzimidazol-5-yl 2,6-difluorobenzenesulfonate are obtained in the form of a pale yellow powder, the characteristics of which are as follows:

reactant | 1-(5-hydroxy-1H-benzimidazol-2-yl)-3-(2-morpholin-4-ylethyl)urea | 250 mg | OC1=CC2=C(NC(=N2)NC(=O)NCCN2CCOCC2)C=C1 | C14H19N5O3
reactant | sodium hydroxide | 0.1N | [OH-].[Na+]
reactant | 2,6-difluorobenzenesulfonyl chloride | 191 mg | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | 2,6-difluorobenzenesulfonyl chloride | 40 mg | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
product | 2-{[(2-morpholin-4-ylethyl)carbamoyl]amino}-1H-benzimidazol-5-yl 2,6-difluorobenzenesulfonate | 167 mg | FC1=C(C(=CC=C1)F)S(=O)(=O)OC1=CC2=C(NC(=N2)NC(NCCN2CCOCC2)=O)C=C1 | C20H21F2N5O5S
